US08022223B2
Step B: 2-(2-(4-methylthiazol-2-ylamino)pyridin-3-yloxy)benzonitrile:
A 50 mLround bottom flask was charged with 2-(2-chloropyridin-3-yloxy)benzonitrile (0.667 g, 2.89 mmol), 4-methylthiazol-2-amine (0.300 g, 2.63 mmol), potassium phosphate (0.614 g, 2.89 mmol) and toluene (7 mL). The reaction mixture was degassed with nitrogen. Tris(dibenzylideneacetone)-dipalladium (0) (0.0602 g, 0.0657 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.0418 g, 0.0723 mmol) were added, and the reaction mixture was degassed with nitrogen. The reaction mixture was warmed to 90° C. and degassed water (2 mL) was added. The reaction mixture was stirred at 90° C. overnight. Water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography using 10-40% ethyl acetate in hexanes as eluent to afford the title compound as a yellow solid (0.385 g, 46.6% yield). 1H NMR (CDCl3) δ 8.19 (dd, 1H), 7.68 (dd, 1H), 7.49 (m, 1H), 7.19 (dd, 1H), 7.15 (dd, 1H), 6.85 (m, 2H), 6.39 (m, 1H), 2.29 (d, 3H); Mass spectrum (esi) m/z=309 (100).

reactant | 2-(2-chloropyridin-3-yloxy)benzonitrile | 2.89 mmol, 0.667 g | ClC1=NC=CC=C1OC1=C(C#N)C=CC=C1 | C12H7ClN2O
reactant | 4-methylthiazol-2-amine | 2.63 mmol, 0.300 g | CC=1N=C(SC1)N | C4H6N2S
reactant | potassium phosphate | 2.89 mmol, 0.614 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Tris(dibenzylideneacetone)-dipalladium (0) | 0.0657 mmol, 0.0602 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.0723 mmol, 0.0418 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-(4-methylthiazol-2-ylamino)pyridin-3-yloxy)benzonitrile | 0.385 g, 46.6% yield | CC=1N=C(SC1)NC1=NC=CC=C1OC1=C(C#N)C=CC=C1 | C16H12N4OS
